US08008327B2
Synthesis of 1-(4-Fluoro-phenyl)-1H-indazole-4-carboxylic acid (6-methanesulfonylamino-pyridin-3-ylmethyl)-amide (20)
To a solution of 1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid (6-amino-pyridin-3-ylmethyl)-amide (40.0 mg, 0.111 mmol) in dichloromethane (1.0 mL) was added DIEA (0.15 mL, 0.89 mmol). The solution was cooled to 0° C., treated with methanesulfonyl chloride (0.021 mL, 0.28 mmol), and gradually allowed to warm to room temperature. The solution was diluted CH2Cl2 (20 mL) and washed with saturated aqueous NH4Cl (3×10 mL), saturated aqueous NaHCO3 (10 mL) and brine (10 mL). The organic layer was dried over MgSO4, filtered and concentrated. The crude mixture was diluted with THF (0.5 mL) and a 1 M solution of TBAF in THF (1.0 mL, 1.0 mmol) was added. The solution was warmed at reflux for 6 hours. The solution was cooled to room temperature and quenched with saturated aqueous NH4Cl (15 mL), diluted with ethyl acetate (15 mL), and washed with NaHCO3 (10 mL) and brine (10 mL). The organic layer was dried over MgSO4, filtered and concentrated. The residue was purified by silica gel chromatography, eluting with a gradient of 0-10% MeOH in CH2Cl2 to afford the title compound as a solid.

reactant | 1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid (6-amino-pyridin-3-ylmethyl)-amide | 0.111 mmol, 40.0 mg | NC1=CC=C(C=N1)CNC(=O)C=1C=2C=NN(C2C=CC1)C1=CC=C(C=C1)F | C20H16FN5O
reactant | DIEA | 0.89 mmol, 0.15 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.28 mmol, 0.021 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | THF | 1.0 mmol, 1.0 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-Fluoro-phenyl)-1H-indazole-4-carboxylic acid (6-methanesulfonylamino-pyridin-3-ylmethyl)-amide | CS(=O)(=O)NC1=CC=C(C=N1)CNC(=O)C=1C=2C=NN(C2C=CC1)C1=CC=C(C=C1)F | C21H18FN5O3S
